US07517878B2
To a solution of 3,6-dichloropyridine-2-carboxylic acid (7.10 mmol 1.36 g) in dioxane (15 mL) was added sodium methoxide (21.31 mmol 1.15 g) in methanol dropwise. The mixture was stirred at 85° C. for 14 h, cooled to rt, and diluted with ethyl acetate and aqueous HCl. The organic layer was washed with water and brine, and dried (MgSO4). Removal of the solvent provided 3-chloro-6-methoxypyridine-2-carboxylic acid which was used in the next step without further purification.

reactant | 3,6-dichloropyridine-2-carboxylic acid | 7.10 mmol, 1.36 g | ClC=1C(=NC(=CC1)Cl)C(=O)O | C6H3Cl2NO2
reactant | sodium methoxide | 21.31 mmol, 1.15 g | C[O-].[Na+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | Cl | ClH
product | 3-chloro-6-methoxypyridine-2-carboxylic acid | ClC=1C(=NC(=CC1)OC)C(=O)O | C7H6ClNO3
